US06313297B1
According to GP, 2.22 mmol (=0.43 g) of 1-(2-methoxyphenyl)piperazine and 2.22 mmol (=0.23 g=0.25 ml) of styrene are reacted with 5 mol % (=0.111 mmol=70 μl) of n-BuLi solution. Column-chromatographic separation with ethyl acetate/n-hexane (1:2) gives the product 1-(2-methoxyphenyl)-4-(2-phenyl-1-ethyl)piperazine as a yellow oil.

reactant | 1-(2-methoxyphenyl)piperazine | 2.22 mmol, 0.43 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | styrene | 2.22 mmol, 0.25 ml, 0.23 g | C=CC1=CC=CC=C1 | C8H8
reactant | n-BuLi | 0.111 mmol, 70 μl | [Li]CCCC
product | 1-(2-methoxyphenyl)-4-(2-phenyl-1-ethyl)piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
